Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pleuritic chest pain 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ s/p renal transplant in ___ (unable to obtain IV dye), afib 
on coumadin recently sub-therapeutic, who presents with ___ days 
of pleuritic chest pain under her left breast. She denied any 
pain at rest, dyspnea or lower extremity pain or swelling. She 
was seen at ___ on ___ where she reported a recent car trip to 
___ in the middle of last week ___ach way). Her 
INR was found to be 1.2. She also notes recent exercise which 
she thinks may have contributed to the pain. She currently feels 
at baseline, with no pain. No recent fevers/chills. No chest 
pain or abdominal pain. No shortness of breath.  
- Initial vitals: 98.4 88 145/72 99% RA  
- Labs were notable for UA neg for infection. INR was 1.2. Chem7 
was notable Cr of 1.4, Trop negative. Alb 3.1, AP 133. CBC: 7.9 
/ 10.1 /  
- Studies performed include CXR showing stable small to moderate 
bilateral pleural effusions and stable mild cardiomegaly and 
pulmonary artery enlargement. Bilateral LENIS were negative  
- Patient was given 1mg warfarin  
On the floor patient feels well, no pleuritic pain, no shortness 
of breath.  
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
ATRIAL FIBRILLATION  
CHRONIC KIDNEY DISEASE  
DIABETES TYPE II  
HYPERLIPIDEMIA  
HYPERTENSION  
GALLSTONE PANCREATITIS S/P SPHINCTEROTOMY  
S/P RENAL TRANSPANT  
SYSTOLIC CONGESTIVE HEART FAILURE EF ___  
SHINGLES - FOREHEAD  
DIABETES MELLITUS  
MITRAL REGURGITATION  
URINARY TRACT INFECTION  
RENAL TRANSPLANT ___  
BILATERAL NEPHRECTOMIES ___  
SPHINCTEROTOMY  
BREAST AUGMENTATION
 
Social History:
___
Family History:
Sister RENAL TRANSPLANT
Daughter POLYCYSTIC KIDNEYS
 
Physical Exam:
Physical exam on admission:
=================================
Vitals: 99.1 162/97 96 16 99% RA blood sugar 371  
General: comfortable, in NAD  
HEENT: MMM, PERRL, oropharynx clear  
Neck: supple  
CV: RRR, normal s1 and s2  
Lungs: CTAB  
Abdomen: soft, nontender, nondistended  
Ext: warm, well perfused, no ___ edema  
Neuro: alert and oriented x 3, moving all extremities with 
purpose. CN II-XI intact  

Physical exam on discharge:
=================================
Vitals: 98.5 (101.0) 158/99 86 16 99% RA  
General: comfortable, in NAD 
HEENT:  MMM, PERRL, oropharynx clear
Neck:  supple
CV:  RRR, normal s1 and s2
Lungs:  CTAB
Abdomen:  soft, mild ttp over transplanted kidney in RLQ, no RUQ 
tenderness,  nondistended
Ext:  warm, well perfused, no ___ edema
Neuro: alert and oriented x 3, moving all extremities with 
purpose. CN II-XI intact

 
Pertinent Results:
Labs on admission:
=========================
___ 12:24PM BLOOD WBC-9.8 RBC-3.44* Hgb-10.5* Hct-30.2* 
MCV-88 MCH-30.5 MCHC-34.8 RDW-12.7 RDWSD-40.1 Plt ___
___ 12:24PM BLOOD Neuts-88.4* Lymphs-7.1* Monos-3.8* 
Eos-0.2* Baso-0.1 Im ___ AbsNeut-8.70* AbsLymp-0.70* 
AbsMono-0.37 AbsEos-0.02* AbsBaso-0.01
___ 12:24PM BLOOD ___
___ 12:24PM BLOOD Plt ___
___ 12:24PM BLOOD UreaN-21* Creat-1.2* Na-132* K-4.4 Cl-97 
HCO3-24 AnGap-15
___ 12:24PM BLOOD ALT-15 AST-20
___ 12:24PM BLOOD Lipase-35
___ 12:24PM BLOOD Calcium-9.1
___ 03:30PM BLOOD Albumin-3.1* Calcium-9.0 Phos-2.6*# 
Mg-1.8
___ 02:43PM BLOOD D-Dimer-___*
___ 03:35PM BLOOD Lactate-1.8

Reports:
=========================
IMPRESSION: 
  
1. Multiple liver cysts and tortuous anechoic structures in the 
central liver 
which may represent additional cysts and/or saccular dilation of 
bile ducts, 
several with either intraductal stones or parenchymal 
calcifications.  MRCP is 
suggested for further delineation and to exclude a common 
hepatic duct stone 
or other central cause of apparent biliary dilation, versus 
intrinsic biliary 
dilation such as could be due to ___'s disease or 
cholangiohepatitis. 
2. Trace perihepatic ascites and small left pleural effusion. 
  
RECOMMENDATION(S):   MRCP is recommended for further evaluation. 


V/Q Scan

IMPRESSION:  Low likelihood ratio for acute pulmonary embolism. 
  
By electronically signing this report, I, the attending 
physician, attest that I have  
reviewed the images associated with the above examination(s) and 
 
agree with the findings as documented above. 

Microbiology:
=========================
URINE CULTURE (Final ___:    NO GROWTH.
Blood Culture, Routine: Pending x3

Labs on discharge:
=========================
___ 07:15AM BLOOD WBC-5.3 RBC-2.89* Hgb-8.6* Hct-25.1* 
MCV-87 MCH-29.8 MCHC-34.3 RDW-12.6 RDWSD-40.1 Plt ___
___ 07:15AM BLOOD Glucose-151* UreaN-19 Creat-1.4* Na-135 
K-3.5 Cl-101 HCO3-23 AnGap-15
___ 07:15AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.6
___ 07:15AM BLOOD ___ PTT-87.9* ___
 
Brief Hospital Course:
___ s/p renal transplant in ___ (unable to obtain IV dye), on 
immunosuppresion, s/p bilateral nephrectomies, afib on coumadin 
recently sub-therapeutic, who presents with ___ days of 
pleuritic chest pain under her left breast after 12 hours 
driving which resolved upon presentation. CP was of unclear 
cause. VQ scan was low probability. Patient notes some exercise 
recently and thinks this may have caused her pain. cardiac 
enzymes negative, EKG reassuring for ACS. patient was 
subtherapeutic on coumadin and has CHADS2 score of 3, and was 
treated with heparin gtt. Patient had fevers of unknown 
etiology, blood cultures were drawn which were pending at time 
of discharge.  The patient remained afebrile for 24 hours and 
was treated for presumed community acquired pneumonia given her 
subjective symptoms of pleuritic chest pain and pleural effusion 
on admission CXR.

# FEVERS -  Pt admitted for chest pain but spiked low grade 
fevers during admission. Initially placed on empiric vancomycin 
and zosyn, but continued spiking fevers without apparent source. 
 CXR showed minor pulmonary effusion on the R side. No 
localizing infectious symptoms, and fever resolved. Has 
reportedly had history of liver cyts which were again 
demonstrated on RUQ US without RUQ tenderness to palpation, thus 
not believed to be the source of intermittent fevers. The 
patient remained afebrile for 24 hours and was treated for 
presumed community acquired pneumonia given her subjective 
symptoms of pleuritic chest pain and pleural effusion on 
admission CXR without obvious localizing infectious signs, clear 
V/Q scan, and negative urine and blood cultures at the time of 
discharge.

# CP: The patient had an admission EKG and troponins reassuring 
for ACS, but reported pleuritic chest pain on admission.  Given 
a sub-therapeutic INR the patient was begun on a heparin drip, 
and with a recent history of travel and elevated d-dimer a V/Q 
scan was ordered which showed low probability of a pullmonary 
embolism. The patient's chest pain resolved completely by 
hospital day 2. Given that her only subjective complaint on 
admission was pleuritic chest pain, it was believed that her 
pain likely stemmed from a parapneumonic effusion and the 
patient was treated for community acquired pneumonia.  

TRANSITIONAL ISSUES:
# AFIB - ensure patient taking coumadin 2 mg. Follow up INR on 
___
# Liver cysts and sacular intrahepatic bile duct dilation - 
Noted on RUQ US to assess for possible fever source. Radiology 
recommended MRCP for further evaluation. Pls consider GI 
referral if needed. (note: pt with transplanted kidney)
# Please monitor INR closely given concurrent levofloxacin 
administration
# Code Status: Full code 
# Emergency Contact/HCP: ___ (husband) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Mycophenolate Mofetil 250 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 
4. Metoprolol Succinate XL 100 mg PO BID 
5. Losartan Potassium 25 mg PO DAILY 
6. Lorazepam 0.5 mg PO QHS:PRN anxiety 
7. GlipiZIDE XL 5 mg PO DAILY 
8. Furosemide 20 mg PO DAILY:PRN leg swelling 
9. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
10. Diltiazem Extended-Release 120 mg PO DAILY 
11. Atorvastatin 10 mg PO QHS 
12. Ezetimibe 10 mg PO DAILY 
13. CycloSPORINE (Neoral) MODIFIED 25 mg PO Q12H 
14. Warfarin 1 mg PO DAILY16 
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral 2 tablets once a day 

 
Discharge Medications:
1. CycloSPORINE (Neoral) MODIFIED 25 mg PO Q12H 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Ezetimibe 10 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
5. Furosemide 20 mg PO DAILY:PRN leg swelling 
6. Lorazepam 0.5 mg PO QHS:PRN anxiety 
7. Metoprolol Succinate XL 100 mg PO BID 
8. Losartan Potassium 25 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Mycophenolate Mofetil 250 mg PO BID 
11. PredniSONE 5 mg PO DAILY 
12. Levofloxacin 750 mg PO Q48H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth every other day 
Disp #*3 Tablet Refills:*0
13. Atorvastatin 10 mg PO QHS 
14. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral 2 tablets once a day 
15. GlipiZIDE XL 5 mg PO DAILY 
16. Warfarin 1 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Fevers
Chest pain
Commmunity acquired pneumonia

Secondary:
status post renal transplant
atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking part in your care during your 
hospitalization at ___. You 
were admitted for left sided chest pain, and there was concern 
for a possible blood clot in your lungs. A study was performed 
that showed that it is unlikely that there was a clot in your 
lung. However, you had high fevers, and there was concern for 
infection given that you take immune suppressive medications. An 
ultrasound showed cysts in your liver, and bile duct dilation, 
which will need to get followed up with an outpatient 
gastroenterologist. You were treated empirically with broad 
antibiotics and these were changed to levofloxacin to treat for 
community acquired pneumonia. Please monitor your INR very 
closely given that it may fluctuate with your antibiotics.

Please follow up with the appointments as scheduled below. 
Please continue to take your medications, and take your coumadin 
daily unless instructed otherwise by your doctor. Again, it has 
been a pleasure taking part in your care, and we wish you the 
best.

Sincerely,

- Your ___ care team
 
Followup Instructions:
___